US07396836B2
4-Chloro-6-(3-fluorophenyl)-5-(4-pyridyl)-2-pyrimidinylamine
A suspension of 2-amino-6-(3-fluorophenyl)-5-(4-pyridyl)-3,4-dihydro-4-pyrimidinone (1.0 g, 3.54 mmol) in phosphorus oxychloride (15 ml) was stirred at 100° C. for 30 minutes under an atmosphere of nitrogen gas. After cooling as it was, the reaction mixture was concentrated and the residue was dissolved in ethyl acetate and 2N sodium hydroxide. The organic layer was washed with an aqueous saturated sodium bicarbonate solution twice and brine, dried over anhydrous sodium sulfate and concentrated. To the residue was added diethyl ether, and the resulting precipitates were collected by filtration and washed with diethyl ether, to give the title compound (513 mg, 48%) as a colorless solid.

reactant | 2-amino-6-(3-fluorophenyl)-5-(4-pyridyl)-3,4-dihydro-4-pyrimidinone | 3.54 mmol, 1.0 g | NC1=NC(=C(C(N1)=O)C1=CC=NC=C1)C1=CC(=CC=C1)F | C15H11FN4O
reactant | phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-(3-fluorophenyl)-5-(4-pyridyl)-2-pyrimidinylamine | 513 mg, 48% | ClC1=NC(=NC(=C1C1=CC=NC=C1)C1=CC(=CC=C1)F)N | C15H10ClFN4
